US07943607B2
N-(2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}ethyl)-2,3,4-trifluoro-N-methylbenzamide
2,3,4-Trifluorobenzoyl chloride (2.32 mL, 18.16 mmol) was added slowly to a stirred mixture of (2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)methylamine (3.44 g, 18.16 mmol) in DCM (200 mL) and 10% aqueous sodium hydroxide solution (200 mL) at 0° C. The reaction was allowed to warm to RT and stirred for a further 24 hours. The phases were separated and the aqueous phase further extracted with DCM (3×100 mL), the combined organics dried (MgSO4), filtered and the solvent removed in vacuo to give a pale yellow oil. The residue was chromatographed on silica, eluting with 0-50% ethyl acetate in isohexane, to give the desired compound as a colourless oil (5.22 g).

reactant | 2,3,4-Trifluorobenzoyl chloride | 18.16 mmol, 2.32 mL | FC1=C(C(=O)Cl)C=CC(=C1F)F | C7H2ClF3O
reactant | (2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)methylamine | 18.16 mmol, 3.44 g | [Si](C)(C)(C(C)(C)C)OCCNC | C9H23NOSi
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 200 mL | [OH-].[Na+]
product | N-(2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}ethyl)-2,3,4-trifluoro-N-methylbenzamide | 5.22 g | CC(C)(C)[Si](OCCN(C(C1=C(C(=C(C=C1)F)F)F)=O)C)(C)C | C16H24F3NO2Si
